US09056311B2
20 g (0.14 mmol) of 1-methyl-octahydroindole was mixed with 53 g (0.29 mmol) of 1-iodobutane in 300 mL of methanol. The reaction mixture was heated at reflux for 72 hours. Then, an additional 0.5 mol equivalent of 1-iodobutane was added and the reaction mixture was heated for an additional 12 hours. The reaction mixture was cooled and the solvent removed on a rotary evaporator to give an off-white powder which was used without further purification. The quaternization afforded 39.4 g (86% yield) of 1-butyl-1-methyl-octahydroindolium iodide. The obtained 1-butyl-1-methyl-octahydroindolium iodide (18.15 g) was dissolved in 56 g of deionized water. To this solution, 70 g of BIO-RAD AG® 1-X8 ion exchange resin was added and the slurry was gently stirred at room temperature overnight. The solution was filtered and the filtrate analyzed for hydroxide content by titration of a small aliquot with dilute HCl. The exchange afforded 1-butyl-1-methyl-octahydroindolium hydroxide in 87% yield.

reactant | 1-butyl-1-methyl-octahydroindolium iodide | 18.15 g | [I-].C(CCC)[N+]1(CCC2CCCCC12)C
reactant | water | 56 g | O | H2O
product | 1-butyl-1-methyl-octahydroindolium hydroxide | 87% yield | [OH-].C(CCC)[N+]1(CCC2CCCCC12)C | InChI=1S/C13H26N.H2O/c1-3-4-10-14(2)11-9-12-7-5-6-8-13(12)14;/h12-13H,3-11H2,1-2H3;1H2/q+1;/p-1
